US06433174B1
Synthesis of 4-Ethoxycarbonylamino-3-(3,4-dichlorophenyl)butyric Acid
Ethyl chloroformate (3.19 g, 29.4 mmol) was added to a 2N sodium hydroxide solution (26.3 ml, 52.4 mmol) of 4-amino-3-(3,4-dichlorophenyl)butyric acid (5.61 g, 22.6 mmol) under cooling with ice water and the mixture was stirred at 0° C. for 30 minutes and then at room temperature for 4 hours. The reaction solution was washed with diethyl ether and the aqueous layer was adjusted to a pH of about 2 with 1N hydrochloric acid and extracted with diethyl ether. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain the title compound (7.23 g, quant.) as a light brown oily substance.

reactant | Ethyl chloroformate | 29.4 mmol, 3.19 g | ClC(=O)OCC | C3H5ClO2
reactant | sodium hydroxide | 52.4 mmol, 2N, 26.3 ml | [OH-].[Na+]
reactant | 4-amino-3-(3,4-dichlorophenyl)butyric acid | 22.6 mmol, 5.61 g | NCC(CC(=O)O)C1=CC(=C(C=C1)Cl)Cl | C10H11Cl2NO2
product | 4-Ethoxycarbonylamino-3-(3,4-dichlorophenyl)butyric Acid | 7.23 g | C(C)OC(=O)NCC(CC(=O)O)C1=CC(=C(C=C1)Cl)Cl | C13H15Cl2NO4
